US08937071B2
A solution of methyl 2-(4-bromo-3-fluorophenyl)acetate (0.5 g, 2.024 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (0.617 g, 2.429 mmol), PdCl2(dppf) (0.148 g, 0.202 mmol) and potassium acetate (0.397 g, 4.05 mmol) in 1,4-dioxane (5 mL) was stirred at 80° C. for 16 h. After LCMS analysis showed the starting material had disappeared, the solvent was removed in vacuo. The residue was dissolved in EA (60 mL) and filtered. The filtrate was washed H2O (20 mL) and brine (20 mL). The organic layer was dried over Na2SO4, filtered and concentrated. The crude product was purified by column chromatography (PE/EA=5/1) to yield a yellow oil of methyl 2-(3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetate (440 mg, 1.294 mmol, 63.9% yield): 1H NMR (400 MHz, CD3OD) δ 7.62 (t, J=7.2 Hz, 1H), 7.07 (d, J=8.4 Hz, 1H), 6.98 (d, J=10.4 Hz, 1H), 3.67 (s, 5H), 1.33 (s, 12H); ES-LCMS m/z 295.1 (M+H).

reactant | methyl 2-(4-bromo-3-fluorophenyl)acetate | 2.024 mmol, 0.5 g | BrC1=C(C=C(C=C1)CC(=O)OC)F | C9H8BrFO2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 2.429 mmol, 0.617 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 4.05 mmol, 0.397 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.202 mmol, 0.148 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 2-(3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetate | 1.294 mmol, 440 mg, 63.9% yield | FC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)CC(=O)OC | C15H20BFO4
